US07414052B2
To a mixture of 4-fluoro-phenylamine (9 g, 81 mmol), concentrated hydrochloric acid (20.4 mL), and water (35.1 mL) was added sodium nitrite (6.3 g, 89.1 mmol) dissolved in water (7.8 mL). In a separate flask ethyl 2-ethylacetoacetate (14.4 g, 89.1 mmol) in ethanol (63.6 mL) at 0° C. was treated with potassium hydroxide (5.1 g, 89.1 mmol) in water (7.5 mL) and ice and the above solution added. The pH of the reaction was adjusted to 5-6 and the reaction stirred at 0° C. for 3 hours and then stored in the freezer overnight. The reaction was then extracted with ethyl acetate (100 mL) and the organics washed with saturated brine solution (100 mL), dried with anhydrous magnesium sulfate. Most of the solvent was removed in vacuo before it was added dropwise to a 14.5% ethanolic solution of hydrochloric acid (70 mL) at 78° C. Heating was continued for 2 hours. The solvent was removed in vacuo and the residue treated with dichloromethane (300 mL) and water (100 mL). The organic layer was washed with saturated sodium chloride (200 mL), dried over sodium sulfate and concentrated in vacuo. Purification on a short wash column (silica gel, 25% ethyl acetate/hexane) gave ethyl 5-fluoro-3-methyl-1H-indole-2-carboxylate as a white solid. MS (ES) m/z 220.0.

reactant | 4-fluoro-phenylamine | 81 mmol, 9 g | FC1=CC=C(C=C1)N | C6H6FN
reactant | hydrochloric acid | 20.4 mL | Cl | ClH
reactant | sodium nitrite | 89.1 mmol, 6.3 g | N(=O)[O-].[Na+]
reactant | ethyl 2-ethylacetoacetate | 89.1 mmol, 14.4 g | C(C)C(C(=O)OCC)C(=O)C | C8H14O3
reactant | potassium hydroxide | 89.1 mmol, 5.1 g | [OH-].[K+]
solvent | water | 7.8 mL | O | H2O
solvent | ethanol | 63.6 mL | C(C)O | C2H6O
solvent | water | 7.5 mL | O | H2O
solvent | water | 35.1 mL | O | H2O
product | ethyl 5-fluoro-3-methyl-1H-indole-2-carboxylate | FC=1C=C2C(=C(NC2=CC1)C(=O)OCC)C | C12H12FNO2
